** sch_path: /home/amedcalf/projects/ci2406_fgcaptest/xschem/lsi1v8o5v0.sch
.subckt lsi1v8o5v0 in out_b out vdd_l vdd_h vss
*.PININFO in:I out_b:O out:O vdd_l:I vdd_h:I vss:I
XMN2 in_bb in_b vss vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.5 nf=1 m=1
XMN11 t2 in_b vss vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.5 nf=1 m=1
XMN12 t1 in_bb vss vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.5 nf=1 m=1
XMN13a out t1 vss vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.5 nf=1 m=1
XMN14a out_b out vss vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.5 nf=1 m=1
XMP2 in_bb in_b vdd_l vdd_l sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.5 nf=1 m=1
XMP11 t2 t1 vdd_h vdd_h sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.5 nf=1 m=1
XMP12 t1 t2 vdd_h vdd_h sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.5 nf=1 m=1
XMP13a out t1 vdd_h vdd_h sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.5 nf=1 m=1
XMP14a out_b out vdd_h vdd_h sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.5 nf=1 m=1
XMN13b out t1 vss vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.5 nf=1 m=1
XMP13b out t1 vdd_h vdd_h sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.5 nf=1 m=1
XMP13c out t1 vdd_h vdd_h sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.5 nf=1 m=1
XMP13d out t1 vdd_h vdd_h sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.5 nf=1 m=1
XMND1 vss vss vss vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.5 nf=1 m=1
XMND2 vss vss vss vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.5 nf=1 m=1
XMP14b out_b out vdd_h vdd_h sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.5 nf=1 m=1
XMP14c out_b out vdd_h vdd_h sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.5 nf=1 m=1
XMP14d out_b out vdd_h vdd_h sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.5 nf=1 m=1
XMN14b out_b out vss vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.5 nf=1 m=1
XMND3 vss vss vss vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.5 nf=1 m=1
XMND4 vss vss vss vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.5 nf=1 m=1
XMP1 in_b in vdd_l vdd_l sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.5 nf=1 m=1
XMN1 in_b in vss vss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.5 nf=1 m=1
.ends
